US06440966B1
Step c: Preparation of 3-Amino-4-methyl-benzene-N,N-dimethylsulfonamide
The compound 4-methyl-3-nitro-benzene-N,N-dimethylsulfonamide is dissolved in ethanol. A catalyst like Raney nickel is added and the mixture hydrogenated in a shaker. The catalyst is removed by filtration. The solvent is removed in vacuo to give a product which may be purified if necessary by chromatography or crystallization from an appropriate solvent like chloroform or heptane-ethyl acetate.

reactant | 4-methyl-3-nitro-benzene N,N-dimethylsulfonamide | CC1=C(C=CC=C1)[N+](=O)[O-].CN(S(=O)=O)C
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 3-Amino-4-methyl-benzene N,N-dimethylsulfonamide | NC=1C=CC=CC1C.CN(S(=O)=O)C | InChI=1S/C7H9N.C2H7NO2S/c1-6-4-2-3-5-7(6)8;1-3(2)6(4)5/h2-5H,8H2,1H3;6H,1-2H3
